US06469003B1
To a suspension of 62.5% sodium hydride (92 mg) in N,N-dimethylformamide (8 ml) was added 3-pyridylcarbinol (0.25 ml) under ice cooling, followed by stirring at room temperature for 20 minutes. Then, 4-bromo-2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-3(2H)-pyridazinone (738 mg) was added, followed by stirring at room temperature for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After washing with water and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the resulting residue was crystallized from ether to obtain 2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-4-(3-pyridylmethoxy)-3(2H)-pyridazinone (320 mg).

reactant | sodium hydride | 92 mg | [H-].[Na+]
reactant | 3-pyridylcarbinol | 0.25 ml | N1=CC(=CC=C1)CO | C6H7NO
reactant | 4-bromo-2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-3(2H)-pyridazinone | 738 mg | BrC=1C(N(N=C(C1C)C1(OCCO1)C)C1=CC=C(C=C1)F)=O | C15H14BrFN2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-4-(3-pyridylmethoxy)-3(2H)-pyridazinone | 320 mg | FC1=CC=C(C=C1)N1N=C(C(=C(C1=O)OCC=1C=NC=CC1)C)C1(OCCO1)C | C21H20FN3O4
